US07790728B2
1-(3-Fluorophenyl)-2-pyridin-4-ylethanone
To a solution of ethyl 3-fluorobenzoate (2.0 g, 11.9 mmol) and 4-methylpyridine (1.1 mL, 1.0 g, 10.8 mmol) in THF (9 mL) at 0° C. under nitrogen atmosphere was added dropwise lithium bis(trimethylsilyl)amide (23.8 mL, 1.0M in hexane, 23.8 mmol) During the addition a precipitate was formed and the suspension was stirred at room temperature overnight. The reaction was diluted with hexane (40 mL) and filtered. The solid was partitioned between ethyl acetate and a saturated solution of ammonium chloride. The organic phase was dried (MgSO4) and evaporated under reduced pressure to give the title compound as a yellow solid (2.09 g, 82%).

reactant | ethyl 3-fluorobenzoate | 11.9 mmol, 2.0 g | FC=1C=C(C(=O)OCC)C=CC1 | C9H9FO2
reactant | 4-methylpyridine | 10.8 mmol, 1.1 mL, 1.0 g | CC1=CC=NC=C1 | C6H7N
reactant | lithium bis(trimethylsilyl)amide | 23.8 mmol, 1.0M, 23.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | hexane | 40 mL | CCCCCC | C6H14
product | 1-(3-Fluorophenyl)-2-pyridin-4-ylethanone | 2.09 g, 82% | FC=1C=C(C=CC1)C(CC1=CC=NC=C1)=O | C13H10FNO
